US06531491B1
In a 100-mL round-bottom flask, 3-iodo-6-(3-methoxy-4-methoxymethoxy-phenyl)-1H-indazole (921 mg, 2.245 mmol, 1.00 equiv) was dissolved in THF (36 mL) and cooled to −78° C. (allow 8 min at this scale). A solution of PhLi (2.5 mL, 1.8M, 4.49 mmol, 2.00 equiv) was added and the mixture was allowed to stir for 30 min. A solution of s-BuLi (3.63 mL, 4.71 mmol, 2.1 equiv) was added and the reaction mixture was allowed to stir for 1 h at −78° C. Neat DMF (1.4 mL, 18 mmol, 8.0 equiv) was added. The cold bath was removed and the reaction was allowed to slowly warm to 0° C. in the air. As the ice melted saturated sodium bicarbonate (20 mL) was added. The product was extracted into ethyl acetate (200 mL) from saturated sodium bicarbonate (75 mL more), dried over sodium sulfate, decanted and concentrated under reduced pressure. Purification by silica gel chromatography (450 mL silica, 4:6 ethyl acetate/hexane) gave 6-(3-methoxy-4-methoxymethoxy-phenyl)-1H-indazole-3-carbaldehyde (498 mg, 71%)): Rf sm 0.30, p 0.14 (ethyl acetate-hexane 4:6); 1H NMR (CDCl3) δ 10.85 (bs, 1H), 10.25 (s, 1H), 8.37 (d, 1H, J=8.4 Hz), 7.67 (s, 1H), 7.60 (d, 1H, J=8.4 Hz), 6.26 (d, 1H, J=8.7 Hz), 7.19 (m, 2H), 5.30 (s, 2H), 3.99 (s, 3H), 3.55 (s, 3H).

reactant | 3-iodo-6-(3-methoxy-4-methoxymethoxy-phenyl)-1H-indazole | 2.245 mmol, 921 mg, 1.00 equiv | IC1=NNC2=CC(=CC=C12)C1=CC(=C(C=C1)OCOC)OC | C16H15IN2O3
reactant | PhLi | 4.49 mmol, 1.8M, 2.5 mL, 2.00 equiv | [Li]C=1C=CC=CC1
reactant | s-BuLi | 4.71 mmol, 3.63 mL, 2.1 equiv | [Li]C(C)CC
reactant | DMF | 18 mmol, 1.4 mL, 8.0 equiv | CN(C)C=O | C3H7NO
solvent | THF | 36 mL | C1CCOC1 | C4H8O
product | 6-(3-methoxy-4-methoxymethoxy-phenyl)-1H-indazole-3-carbaldehyde | 498 mg, 71% | COC=1C=C(C=CC1OCOC)C1=CC=C2C(=NNC2=C1)C=O | C17H16N2O4
